US04843087
A mixture of 37.8 g of N-(3-hydroxypropyl)-4-hydroxybenzamide and 100 ml of thionyl chloride was stirred for 1.5 hours. The reaction mixture was concentrated in vacuo, the solid residue triturated with ethyl acetate, and converted to the free base by treatment with ammonium hydroxide. There was obtained 10.2 g of 4-(5,6-dihydro-4H-1,3-oxazin-2-yl)phenol, m.p. 196°-198° C. (from methanol).

reactant | N-(3-hydroxypropyl)-4-hydroxybenzamide | 37.8 g | OCCCNC(C1=CC=C(C=C1)O)=O | C10H13NO3
solvent | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-(5,6-dihydro-4H-1,3-oxazin-2-yl)phenol | 10.2 g | O1C(=NCCC1)C1=CC=C(C=C1)O | C10H11NO2
